Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
This is an ___ female with advanced dementia who is 
brought in by
EMS after a fall at a locked memory unit. The patient is unable 
to answer any
questions, responsive to voice. Patient reportedly was seated on 
the commode,
attempted to stand up after using the toilet and fell to the 
right word striking her head in the bathroom. Aid activated EMS 
and EMS brought her to the hospital on a backboard. Patient is 
unable to provide any history, she has advanced dementia and 
speaks ___ interpreter by telephone was provided, 
patient did not respond to any questions but appeared to look at 
the phone indicating she was hearing what was said.
 
Past Medical History:
PMH: 
Alzheimers
Anxiety
MDD
HLD
HTN
Hyperthyroidism
Osteoporosis
Stress Incontinence
Thyrotoxicosis 
Constipation
T2DM
Vit D def
Falls
Dementia
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:
-1 cm laceration right forehead. 3 x 3 cm contusion with some 
moderate swelling right forehead bones of the face are stable 
and nontender. Nose is deformed, with moderate epistaxis which 
has clotted, there is no evidence of septal hematoma. Jaw 
opening and closing without difficulty; jaw is nontender and 
stable. Oropharynx unremarkable, no loose teeth, no lip 
lacerations. Poor dentition. 
- Palpation of the chest does not reveal any crepitus, 
tenderness, or step-off. There are bilateral breath sounds with 
good air entry symmetrically. 
- Left and right upper extremity have intact active and passive 
range of motion in all joints, palpation does not reveal any 
tenderness, crepitus, step-off. Sensation intact in both hands 
and arms based on withdrawal to pain. Grip strength symmetric 
and intact. Radial pulses symmetric. 
-Abdomen is soft, nontender, without guarding or distention
-The pelvis is stable
-Left and right lower extremities have intact active and passive 
range of motion in all joints, palpation does not reveal any 
tenderness, crepitus, step-off. Sensation is intact in both feet 
and legs patient based on withdrawal pain. DP pulses are 
symmetric and intact. No Babinski sign.
-The patient was rolled to their side, and the neck and back 
were examined. There is no C-spine, T-spine, L-spine point 
tenderness, crepitus, step-off. There are no visible lesions on 
the back. No areas of obvious deformity or tenderness. Moderate 
amount of stool in bed however there is moderate sphincter tone 
consistent with the patient's age and advanced dementia.

Discharge Physical Exam:
VS: 97.3, 107/70, 79, 18, 97 Ra 
HEENT: Facial ecchymosis and swelling
CV:HRR
PULM:LS ctab
ABD:soft, NT/ND
EXT:No edema
Neuro: baseline dementia, not oriented
 
Pertinent Results:
___ 06:49AM BLOOD WBC-7.6 RBC-3.41* Hgb-10.4* Hct-30.6* 
MCV-90 MCH-30.5 MCHC-34.0 RDW-11.9 RDWSD-38.4 Plt ___
___ 06:49AM BLOOD Glucose-107* UreaN-21* Creat-0.6 Na-140 
K-3.9 Cl-102 HCO3-24 AnGap-14
___ 06:49AM BLOOD Calcium-9.0 Phos-4.0 Mg-2.0
___ 08:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Radiology: 
CT head: 1. No acute intracranial process. 
2. Multiple nasal bone fractures are better evaluated on same 
day
CT maxillofacial.  There is also a nondisplaced fracture
involving the lateral right pterygoid plate. 
3. Small subgaleal right frontal hematoma 

CT neck: no acute fracture or traumatic malalignment 

CT Face:
1. Multiple small nasal bone fractures with associated mild 
surrounding soft tissue edema. 
2. Nondisplaced right lateral pterygoid plate fracture. 
3. Right frontal subgaleal hematoma. 

Head CT:
No acute intracranial process

CT Abd/Pelvis:
1. No evidence of acute intrathoracic or intraabdominal injury 
within the 
limitation of an unenhanced scan. 
2. Thyroid goiter. 

 
Brief Hospital Course:
___ year old female with advanced dementia living in locked 
memory unit admitted to the Trauma service after a fall from 
standing. Pan-scan revealed facila fractures and a subgaleal 
hematoma. The patient was hemodynamically stable and at her 
baseline mental status. Plastic Surgery was consulted and 
recommended non-operative management and outpatient follow-up. 
The patient worked with ___ and was cleared for discharge back to 
her facility. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, out of bed to chair, voiding without assistance, and pain 
was well controlled.  The patient was discharged back to the 
memory unit she resides in. 
 
Medications on Admission:
- Docusate 100'
- Methimazole 10' QAM
- Vit D3 1000u QAM
- Tylenol ___
Divalproex sprinkles 125' BID
- Gabapentin 100''

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Divalproex Sod. Sprinkles 125 mg PO BID  
3.  Docusate Sodium 100 mg PO BID  
4.  Gabapentin 100 mg PO BID  
5.  Methimazole 10 mg PO QAM  
6.  Vitamin D 1000 UNIT PO QAM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Multiple small nasal bone fractures with associated mild 
surrounding soft tissue edema. 
2. Nondisplaced right lateral pterygoid plate fracture. 
3. Right frontal subgaleal hematoma. 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to ___ after a fall. You were found to have 
facial fractures. The Plastic Surgery team was consulted and 
recommended non-operative management for now. You should 
follow-up with them as an outpatient. You worked with ___ and are 
now medically clear for discharge back to your facility. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids
 
Followup Instructions:
___